US05550134
(4aR)-(10bR)-8-benzoyl-4,10b-dimethyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
To a solution of (4aR)-(10bR)-10b-methyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one in 25 mL of THF at -78° under an atmosphere of nitrogen was added 330 μL of a 1.4M solution of methyllithium in diethyl ether (0.46 mmol). The reaction mixture turned bright yellow, and after 10 min, 470 μl of a 1.7M solution of t-butyllithium in pentane (0.80 mmol) was added. The reaction mixture was stirred for 10 min before the addition of benzaldehyde (80 μL, 0.79 mmol) as a single aliquot. The reaction was warmed to room temperature and stirred for 30 min before partitioning between diethyl ether and 1N hydrochloric acid. The ether layer was dried over sodium sulfate, filtered and evaporated under reduced pressure to afford 0.1818 g crude product. The material was purified on a Chromatotron (2 mm plate, dry loaded with chloroform, eluted with 5% methanol/chloroform) to give 106 mg of desired product. A portion of this material was triturated with diethyl ether to yield a white solid. mp 116-118. FDMS: m/e=321. α[D]589 =+100.39

reactant | (4aR)-(10bR)-10b-methyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | C[C@@]12CCC(N[C@@H]2CCC2=C1C=CC(=C2)Br)=O | C14H16BrNO
reactant | methyllithium | C[Li]
reactant | diethyl ether | 0.46 mmol | C(C)OCC | C4H10O
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 0.80 mmol | CCCCC | C5H12
reactant | benzaldehyde | 0.79 mmol, 80 μL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (4aR)-(10bR)-8-benzoyl-4,10b-dimethyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 106 mg | C(C1=CC=CC=C1)(=O)C1=CC2=C([C@]3(CCC(N([C@@H]3CC2)C)=O)C)C=C1 | C22H23NO2
